* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1310.asc
* Generated by LTspice 24.1.9 for Windows.
L1 IN N001 6.2µ Rser=.05
R1 OUT N003 178K
R2 N003 0 20.5K
C1 N007 0 1500p
D1 N001 OUT MBRS130L
C2 OUT 0 4.7µ Rser=50m
V1 IN 0 5
X§U1 N003 IN N005 N002 0 N001 MP_01 IN N008 N006 LT1310
C4 N008 0 220p
R3 N006 N007 3.01K
R4 N005 N004 15K
C5 N004 0 820p
Rload OUT 0 50
.model D D
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 500u startup
.lib LT1310.sub
.backanno
.end
